US04727081
(b) 3-[3-[(3-Methylpiperidin-1-yl)methyl]phenoxy]propanamine
5.13 g (0.025 mol) of 3-[(3-Methylpiperidin-1-yl) methyl]phenol are introduced into a suspension of 1.0 g (0.025 mol) of sodium hydride (60%) in absolute DMF and stirred overnight at room temperature. After the addition of 2.23 g (0.025 mol) of 3-chloropropionic acid nitrile, the reaction mixture is stirred for 7 hours at 60° C. and then poured into ice water and extracted with ether, and the organic phase is washed with 5% NaOH. After dehydration over Na2SO4, the ethereal phase is introduced dropwise into a suspension of 1.14 g (0.03 mol) of LiAlH4 in absolute ether and then hydrolysed with 2.2 ml of H2O. After filtration and removal of solvent by evaporation under vacuum, 2.96 g of a pale yellow oil are left behind.

reactant | 3-[(3-Methylpiperidin-1-yl) methyl]phenol | 0.025 mol, 5.13 g | CC1CN(CCC1)CC=1C=C(C=CC1)O | C13H19NO
reactant | sodium hydride | 0.025 mol, 1.0 g | [H-].[Na+]
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | LiAlH4 | 0.03 mol, 1.14 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
solvent | H2O | 2.2 ml | O | H2O
product | 3-[3-[(3-Methylpiperidin-1-yl)methyl]phenoxy]propanamine | CC1CN(CCC1)CC=1C=C(OCCCN)C=CC1 | C16H26N2O
